US06861444B2
3-Amino-5-nitrobenzophenone (4 g; synthesized by the process reported by Berend et al., J. Prakt. Chem., vol. 69, p. 471 (1904)) was dissolved in pyridine (40 mL), and the temperature was maintained at 50° C. Methanesulfonyl chloride (1.9 mL) was added, followed by stirring for 2 hours. Additional methanesulfonyl chloride (1.7 mL) was added, followed by stirring at 50° C. for 2 hours. The reaction mixture was cooled down to room temperature and then poured into water (200 mL). The deposited precipitation was collected by filtration and dried under reduced pressure to yield N-(3-acetyl-5-nitrophenyl)methanesulfonamide (5.4 g) as a crude product. The whole quantity of the crude product was dissolved in ethanol (40 mL), and zinc dust (20 g) was added. After further adding concentrated hydrochloric acid (2 mL), the mixture was heated to reflux for 4 hours. The reaction mixture was filtered. To the filtrate, ethyl acetate (100 mL) was added. The mixture was washed with water (100 mL) three times and the organic layer was dried-over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (95:5 chloroform/methanol) to yield the title compound (3.9 g).

reactant | 3-Amino-5-nitrobenzophenone | NC=1C=C(C(=O)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C13H10N2O3
reactant | Methanesulfonyl chloride | 1.9 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 1.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 mL | O | H2O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-acetyl-5-nitrophenyl)methanesulfonamide | 5.4 g | C(C)(=O)C=1C=C(C=C(C1)[N+](=O)[O-])NS(=O)(=O)C | C9H10N2O5S
